Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
___ F with hypothyroidism,  history of adenomatous polyps s/p 
recent polypectomy presenting with melena. She reports having 
"black bloody diarrhea" 3 days ago and has since had "black 
stools more formed" 1x per day. She went to her PCP who 
confirmed blood in stool and sent her here. Of note, the patient 
had a recent colonoscopy with a 4 mm non-bleeding polyp of 
benign appearance in the proximal ascending colon, with 
polypectomy performed. Currently, she endorses occasional 
non-localized abdominal cramps with nausea. She denies vomiting, 
fever/chills, chest pain, shortness of breath, headache, urinary 
symptoms. 

In the ED, initial VS were 96.6 77 140/47 18 100% RA.  Labs 
notable for CBC with WBC 8.9, H/H 10.3/30.6, Plt 284. BMP WNL. 
Rectal exam notable for black stool which was guaic positive. 
She received 80 mg IV pantoprazole. 
Upon arrival to the floor, the patient tells the story as 
follows.
GI was consulted and felt this was most likely post-polypectomy
bleed, given that the polypectomy was in the right colon. They
recommended starting moviprep rapid prep protocol.

Upon arrival to the floor, the patient tells the story as 
follows.  Approximately 3 nights prior to admission, she 
experienced some "gas pain", with one episode of diarrhea which 
she describes as watery and appearing as "black coffee".  At 
that time she had discomfort diffusely in her abdomen.  The next 
day she awoke, she felt well.  She had one formed bowel 
movement,
which was still black.  She has had approximately 1 bowel 
movement dark tarry stool since.  She had no other complaints.  
She denies fevers, chills, chest pain, shortness of breath, 
dysuria, change in urinary frequency, bleeding, nausea.  She 
endorsed one episode of lightheadedness which occurred while she
was showering today.  She subsequently spoke to her primary care 
doctor who referred her to the ED.  She has no abdominal pain 
currently, but does endorse occasional cramping primarily in the 
left side.  She denies NSAID use.  She denies prior history of 
bleeding disorders.

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
- HTN
- Hypothyroidism
- Deafness in the right ear (from virus)
- Prior C-section x 2 
 
Social History:
___
Family History:
She denies family history of bleeding disorders.  She denies 
family history of GI malignancy
 
Physical Exam:
Admission exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes dry
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation in all
quadrants, no rebound, no guarding
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

Discharge exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes dry
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation in all
quadrants, no rebound, no guarding
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission labs

___ 12:23PM BLOOD WBC-8.9 RBC-3.51* Hgb-10.3* Hct-30.6* 
MCV-87 MCH-29.3 MCHC-33.7 RDW-14.1 RDWSD-44.3 Plt ___
___ 12:23PM BLOOD Glucose-121* UreaN-19 Creat-0.8 Na-135 
K-3.5 Cl-95* HCO3-27 AnGap-13

Discharge labs

___ 01:15AM BLOOD WBC-10.9* RBC-3.51* Hgb-10.3* Hct-31.2* 
MCV-89 MCH-29.3 MCHC-33.0 RDW-14.2 RDWSD-45.6 Plt ___
___ 01:15AM BLOOD Glucose-105* UreaN-15 Creat-0.8 Na-142 
K-3.4* Cl-104 HCO3-23 AnGap-15
___ 01:15AM BLOOD Calcium-9.3 Phos-3.7 Mg-2.1

Imaging
EGD ___
Two cratered non-bleeding ulcers in antrum

Colonoscopy ___
No source of bleeding seen

 
Brief Hospital Course:
___ F with hypothyroidism, history of adenomatous polyps s/p 
recent polypectomy presenting with melena.

ACUTE/ACTIVE PROBLEMS:
# Acute blood loss anemia:
# Melena: Patient presenting with an admission hemoglobin of 
10.3, down from a hemoglobin of 13.0 earlier this month, with 
ongoing black tarry stools.  Recent colonoscopy with polypectomy 
in the right colon, with pathology which showed a tubular 
adenoma.  Given her recent colonoscopy, her presentation was 
initially concerning for post-polypectomy bleed vs. UGI bleed. 
She was started on IV protonix. Hgb remained stable over 
admission. She underwent colonoscopy and EGD on ___. EGD showed 
two small, non-bleeding ulcers. Patient was transitioned to PO 
protonix. She will need a repeat EGD in 8 weeks and to remain on 
BID PPI until then. 

CHRONIC/STABLE PROBLEMS:
# HTN: home anti-hypertensive were held for GI bleed and patient 
remained normotensive. Patient can resume BP meds at home once 
SBP > 120 or when seen by PCP. 

# Hypothyroidism:
Continued Levothyroxine 25 mcg daily

Transitional care issues
[ ] f/u biopsies from EGD
[ ] resume BP meds once more hypertensive, patient was 
normotensive at time of discharge

Greater than 30 minutes were spent providing and coordinating 
care for this patient on day of discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 25 mcg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Atenolol 25 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every 12 hours Disp 
#*60 Tablet Refills:*0 
2.  Atenolol 25 mg PO DAILY  
3.  Levothyroxine Sodium 25 mcg PO DAILY  
4.  Vitamin D ___ UNIT PO DAILY  
5. HELD- amLODIPine 10 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until sytolic BP > 120
6. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until systolic BP > 120

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Melena
Gastric ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ were admitted for a gastrointestinal bleed and found to have 
ulcers in your stomach. Your blood counts remained stable. ___ 
will need to be on an acid blocking medication twice a day and 
have a repeated upper endoscopy in 8 weeks. Do not take aspirin. 


Please follow up with your primary doctor and GI team. 

Thank ___ for allowing us to participate in your care, 
Your ___ team
 
Followup Instructions:
___